US05859007
2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl acetamide
To 20 mL of THF at 0° C. is added dropwise over 10 min simultaneously a solution of 1.97 g (5.48 mmol) of N-isopropyl-N-phenyl-2-(2-phenylamino-phenylamino) acetamide in 20 mL of THF and 0.53 mL (5.48 mmol) of malonyl dichloride in 20 mL of THF. The resulting red-brown solution is stirred at RT for 5.5 h and the solvent removed in vacuo. Purification of the resulting brown oil by silica gel flash chromatography (50 to 75% ethyl acetate/petroleum ether) followed by recrystallization from ethyl acetate/petroleum ether gave 0.84 g of the title compound as a white powder: mp. 199°-200° C.; 1H NMR (CDCl3, 300 MHz) δ7.6-7.2 (m, 12H), 7.09 (t, 1H, J=8), 6.90 (d, 1H, J=8), 5.05 (m, 1H), 4.38 (d, 1H, J=17), 4.04 (d, 1H, J=17), 3.54 (dd, 2H, J=5, 22), 1.10 (d, 6H, J=7); low resolution MS (FAB) m/e 428 (MH+).

reactant | N-isopropyl-N-phenyl-2-(2-phenylamino-phenylamino) acetamide | 5.48 mmol, 1.97 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H25N3O
reactant | malonyl dichloride | 5.48 mmol, 0.53 mL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-phenyl acetamide | 0.84 g | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C26H25N3O3
